US08497371B2
2-(4-{[(3-benzothiadiazolphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (7)
Pipemidic acid (25 mg, 0.0824 mmol), 2,1,3-benzothiadiazol-5-yl isothiocyanate (15.8 mg, 0.0824 mmol) and triethylamine (23 μL, 0.165 mmol) were used. Purification on silica yielded compound 7 in Table 1, below (24 mg, 58%). 1H NMR (300 MHz, DMSO) δ 9.26 (s, 1H), 8.98 (s, 1H), 7.98-7.82 (m, 3H), 4.51-4.33 (m, 2H), 4.24-3.99 (m, 8H), 1.42-1.32 (m, 3H) ppm.

reactant | Pipemidic acid | 0.0824 mmol, 25 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 2,1,3-benzothiadiazol-5-yl isothiocyanate | 0.0824 mmol, 15.8 mg | N=1SN=C2C1C=CC(=C2)N=C=S | C7H3N3S2
reactant | triethylamine | 0.165 mmol, 23 μL | C(C)N(CC)CC | C6H15N
product | 2-(4-{[(3-benzothiadiazolphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | CCN1C=C(C(=O)C2=CN=C(N=C21)N3CCN(CC3)C(=S)NC4=CC5=NSN=C5C=C4)C(=O)O | C21H20N8O3S2
